US07109219B2
5-(2-(((4-(3-Carbamoylpropyl)piperidin-1-yl)carbonyl)amino)pyridin-4-yloxy)-1H-indole-1-carboxylic acid methylamide
4-(Piperidin-4-yl)butanamide (547 mg, 1.41 mmol) was dissolved in N,N-dimethylformamide (3 ml); phenyl N-(4-(1-(methylamino)carbonyl-1H-indol-5-yloxy)-pyridin-2-yl)-N-(phenoxycarbonyl)carbamate (210 mg, 0.402 mmol, the product of Production example 5-2) was added thereto; and the reaction mixture was stirred at room temperature for 1.5 hour. The reaction mixture was partitioned between ethyl acetate and water; the organic layer was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure; and the residue was purified by silica gel column chromatography (Fuji Silysia NH, ethyl acetate-methanol system). The obtained amorphous solid was crystallized by adding diethyl ether. After addition of a small amount of ethanol to make a suspension, this was diluted with hexane. After separation by filtration to obtain crystals, these were rinsed with diethyl ether and dried under aeration. Thus, the title compound was obtained as colorless crystals (157 mg, 0.328 mmol, 81.7%).

reactant | 4-(Piperidin-4-yl)butanamide | 1.41 mmol, 547 mg | N1CCC(CC1)CCCC(=O)N | C9H18N2O
reactant | phenyl N-(4-(1-(methylamino)carbonyl-1H-indol-5-yloxy)-pyridin-2-yl)-N-(phenoxycarbonyl)carbamate | CNC(=O)N1C=CC2=CC(=CC=C12)OC1=CC(=NC=C1)N(C(OC1=CC=CC=C1)=O)C(=O)OC1=CC=CC=C1 | C29H22N4O6
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 5-(2-(((4-(3-Carbamoylpropyl)piperidin-1-yl)carbonyl)amino)pyridin-4-yloxy)-1H-indole-1-carboxylic acid methylamide | CNC(=O)N1C=CC2=CC(=CC=C12)OC1=CC(=NC=C1)NC(=O)N1CCC(CC1)CCCC(N)=O | C25H30N6O4
